US08193356B2
In accordance with a process described in JP-61-246183A, 4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)-one was synthesized. To a suspension of the synthesized compound (953 mg, 4.0 mmol) in DMF (32 mL) was added sodium hydride (purity of about 60%, 176 mg, 4.4 mmol, 1.1 eq.), and the mixture was stirred at a room temperature for 35 minutes. Then, cyclohexylacetyl chloride (4.8 mmol, 1.2 eq.) was added thereto with cooling in an ice bath, and the mixture was stirred at a room temperature for 80 minutes. Thereafter, water was added to the reaction mixture, and the precipitate was separated by filtration and dried to give 4-cyclohexylacetoxy-1-phenyl-1,8-naphthyridin-2(1H)-one as a form of crystal (1.33 g, yield 91%).

reactant | 4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)-one | OC1=CC(N(C2=NC=CC=C12)C1=CC=CC=C1)=O | C14H10N2O2
reactant | sodium hydride | 4.4 mmol, 176 mg, 1.1 eq. | [H-].[Na+]
reactant | cyclohexylacetyl chloride | 4.8 mmol, 1.2 eq. | C1(CCCCC1)CC(=O)Cl | C8H13ClO
reactant | water | O | H2O
solvent | DMF | 32 mL | CN(C)C=O | C3H7NO
product | 4-cyclohexylacetoxy-1-phenyl-1,8-naphthyridin-2(1H)-one | C1(CCCCC1)CC(=O)OC1=CC(N(C2=NC=CC=C12)C1=CC=CC=C1)=O | C22H22N2O3
